US05455258
To a solution of N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl]amino]-3(R)-hydroxybutanamide (3.04 g, 8.44 mmol) in dimethylformamide (150 mL) is added 3-picolyl chloride hydrochloride (1.45 g, 8.87 mmol) followed by potassium carbonate (11.65 g, 84.4 mmol). The reaction mixture is stirred at room temperature overnight, then heated to 45° C. for 5 hours. An additional amount of 3-picolyl chloride hydrochloride (692.0 mg, 4.23 mmol) is added at this point. The reaction mixture is stirred at 45° C. for 10 hours. The reaction mixture is diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4), and concentrated in vacuo. The crude product is purified by silica gel chromatography (ethyl acetate, then 5% methanol/methylene chloride) to give N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3(R)-(3-picolyloxy)butanamide.

reactant | N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl]amino]-3(R)-hydroxybutanamide | 8.44 mmol, 3.04 g | C(C)(C)(C)ONC([C@@H]([C@@H](C)O)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C15H24N2O6S
reactant | 3-picolyl chloride hydrochloride | 8.87 mmol, 1.45 g | Cl.N1=CC(=CC=C1)CCl
reactant | potassium carbonate | 84.4 mmol, 11.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-picolyl chloride hydrochloride | 4.23 mmol, 692.0 mg | Cl.N1=CC(=CC=C1)CCl
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3(R)-(3-picolyloxy)butanamide | C(C)(C)(C)ONC([C@@H]([C@@H](C)OCC=1C=NC=CC1)N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C27H34N4O6S
